US07057066B2
Thionyl chloride (596 mg) was added to methanol (1.39 g) over 10 minutes under ice-cooling, and the mixture was reacted at the same temperature for 1 hour. The resultant solution was added to a solution of (2S,3S)-3-(ethoxycarbonyl)amino-2-hydroxy-4-phenylbutyric acid (HPLC area ratio of erythro-isomer/threo-isomer=99/1) (1.04 g) and toluene (10 ml) over 10 minutes under ice-cooling. The mixture was reacted at the same temperature for 2 hours and then warmed to room temperature. From the resultant reaction solution, methanol and thionyl chloride as well as components secondarily produced from these reagents and having a low boiling point such as sulfurous acid, hydrogen chloride or the like were distilled off under reduced pressure. Tetrahydrofuran was added to the resultant residue to obtain a tetrahydrofuran solution (10.12 g) of (2S,3S)-3-(ethoxycarbonyl)amino-2-hydroxy-4-phenylbutyric acid methyl ester. The HPLC area ratio of erythro-isomer/threo-isomer was 99/1, and the diastereomer excess was 99% d.e.

reactant | Thionyl chloride | 596 mg | S(=O)(Cl)Cl | Cl2OS
reactant | (2S,3S)-3-(ethoxycarbonyl)amino-2-hydroxy-4-phenylbutyric acid | 1.04 g | C(C)OC(=O)N[C@H]([C@@H](C(=O)O)O)CC1=CC=CC=C1 | C13H17NO5
reactant | sulfurous acid | S(O)(O)=O | H2O3S
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
reactant | methanol | 1.39 g | CO | CH4O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,3S)-3-(ethoxycarbonyl)amino-2-hydroxy-4-phenylbutyric acid methyl ester | COC([C@H]([C@H](CC1=CC=CC=C1)NC(=O)OCC)O)=O | C14H19NO5
